US04248959
To a 2000 ml Erlenmeyer flask equipped with a mechanical stirrer containing 990 g (13.2 moles) of 2-methoxyethanol available from Union Carbide as "methyl cellosolve", were added sequentially over several hours the following components: 4.9 g of a polyvinylformal resin commercially available from Monsanto as "Formvar 12/85", 4.9 g of a polymeric condensation product of 4-(phenylamino)-2-methoxybenzene diazonium salt and bis-(4-methoxymethylphenyl) ether, isolated in the form of a mesitylene-sulfonate, as described in U.S. Pat. No. 3,849,393, assigned to Kalle AG, 0.049 g (0.18 mmole) 4-phenylazodiphenylamine, and 0.111 g (0.96 mmole) of 85% aqueous phosphoric acid. After stirring at room temperature for one hour, the solution was filtered through coarse filter paper. This solution will hereinafter be called Stock Solution A.

reactant | 4-(phenylamino)-2-methoxybenzene diazonium | C1(=CC=CC=C1)NC1=CC(=C(C=C1)[N+]#N)OC
reactant | bis-(4-methoxymethylphenyl) ether | COCC1=CC=C(C=C1)OC1=CC=C(C=C1)COC | C16H18O3
reactant | mesitylene-sulfonate | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)[O-])C
solvent | methyl cellosolve | COCCO | C3H8O2
solvent | 2-methoxyethanol | 13.2 moles, 990 g | COCCO | C3H8O2
product | polyvinylformal | 4.9 g | CC(=O)OC=C.C=CO.C=COCOC=C | InChI=1S/C5H8O2.C4H6O2.C2H4O/c1-3-6-5-7-4-2;1-3-6-4(2)5;1-2-3/h3-4H,1-2,5H2;3H,1H2,2H3;2-3H,1H2
